US05350748
A suspension of 3-(1-methylethoxy)-2-benzofurancarboxylic acid (200 mg, 0.91 mmol) and 1,1'-carbonyldiimidazole (191 mg, 1.18 mmol) in 5 mL of tetrahydrofuran is heated at reflux for 1 hour. The reaction solution is cooled to room temperature and aqueous ammonium hydroxide (3 mL) is added and the reaction mixture is stirred at room temperature for 2 hours. The reaction is diluted with ethyl acetate and washed with 1N HCl, saturated aqueous NaHCO3, and brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography eluting with ethyl acetate:hexane (1:1) provides 3-(1-methylethoxy)-2-benzofurancarboxamide in 77% yield; mp=82°-83° C.

reactant | 3-(1-methylethoxy)-2-benzofurancarboxylic acid | 0.91 mmol, 200 mg | CC(C)OC1=C(OC2=C1C=CC=C2)C(=O)O | C12H12O4
reactant | 1,1'-carbonyldiimidazole | 1.18 mmol, 191 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-methylethoxy)-2-benzofurancarboxamide | 77% yield | CC(C)OC1=C(OC2=C1C=CC=C2)C(=O)N | C12H13NO3
